US07109184B2
Fluoro((10-undecenyl)-ethoxyphosphinyl) methylphosphonic acid diiusopropyl ester
A 1 M solution of sodium bistrimethylsilylamide in tetrahydrofuran (30 mL, 30 mmol) was added dropwise with stirring to ((10-undecenyl)-ethoxyphosphinyl) methylphosphonic acid diisopropyl ester (11 g, 25.9 mmol) in anhydrous tetrahydrofuran (100 mL) at −78° C. under a nitrogen atmosphere. After the addition was complete (15 minutes) the solution was stirred for 45 minutes after which n-fluorobenzenesulfonimide (10 g, 31.7 mmol) in anhydrous tetrahydrofuran (30 mL) was added. The reaction was stirred for 3 hours at −78° C. The reaction was then warmed to −50° C., and excess base was neutralized by the addition of saturated ammonium chloride. The mixture was warmed to room temperature and the volatiles were removed by rotary evaporation to give a creamy solid. The solid was dissolved in water (300 mL) and then extracted three times with ethyl acetate (350 mL). The organic layers were combined and extracted with saturated sodium bicarbonate (250 mL). The ethyl acetate layer was dried over sodium sulfate and volatiles were removed by rotary evaporation to give a viscous liquid. The liquid was purified by flash chromatography (500 g silica, ethyl acetate/ethanol=9.5/0.5) to give the desired product (3.1 g, 27% yield).

reactant | sodium bistrimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ((10-undecenyl)-ethoxyphosphinyl) methylphosphonic acid diisopropyl ester | 25.9 mmol, 11 g | C(C)(C)OP(OC(C)C)(=O)CP(=O)(OCC)CCCCCCCCCC=C | C20H42O5P2
reactant | n-fluorobenzenesulfonimide | 31.7 mmol, 10 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 300 mL | O | H2O
solvent | tetrahydrofuran | 30 mmol, 30 mL | O1CCCC1 | C4H8O
product | Fluoro((10-undecenyl)-ethoxyphosphinyl) methylphosphonic acid | 3.1 g, 27% yield | FOP(O)(=O)CP(=O)(OCC)CCCCCCCCCC=C | C14H29FO5P2
